US08278482B2
2-Methyl-1-morpholinopropan-2-amine (430 mg, 2.7 mmol) and di-tert-butyl dicarbonate (593 mg, 2.7 mmol) were dissolved in tetrahydrofuran (25 ml). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, and the crude material was dissolved in ethyl acetate. The solution was washed with aqueous sodium bicarbonate solution. The organic layer was dried over sodium sulfate and concentrated in vacuo to give 640 mg (91%) of tert-butyl 2-methyl-1-morpholinopropan-2-ylcarbamate. 1H NMR (CDCl3) δ 4.62 (s, 1 H), 3.70-3.67 (m, 4 H), 2.57-2.54 (m, 4 H), 2.45 (s, 2 H), 1.43 (s, 9 H), 1.26 (s, 6 H); MS (ESI+) calculated for C13H27N2O3: 258.20, Found: 259 (M+H).

reactant | 2-Methyl-1-morpholinopropan-2-amine | 2.7 mmol, 430 mg | CC(CN1CCOCC1)(C)N | C8H18N2O
reactant | di-tert-butyl dicarbonate | 2.7 mmol, 593 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-methyl-1-morpholinopropan-2-ylcarbamate | 640 mg, 91% | CC(CN1CCOCC1)(C)NC(OC(C)(C)C)=O | C13H26N2O3
